** sch_path: /home/joyenbenitto/Desktop/projects/EE5311/tutorial_1/tutorial1.sch
**.subckt tutorial1
XM1 Vin Vin GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.45 nf=1 ad=0.1305 as=0.1305 pd=1.48 ps=1.48 nrd=0.644444444444444
+ nrs=0.644444444444444 sa=0 sb=0 sd=0 mult=1
Vin1 Vin GND 1.8
**** begin user architecture code


.lib /home/joyenbenitto/pdk/open_pdks/sources/sky130_fd_pr/combined_models/sky130.lib.spice tt

.control
save all
dc Vin1 0 1.8 0.01
let mu = 0.025
let WbyL = 0.42/0.15
let Cox = 0.00834
let Vth = 0.7
let vsat = 8e4
let Vgs = v(Vin)
let Vds = Vgs
let lambdan = 0.2
let EcL = 2*vsat * 0.15e-6/mu
let Vgt = max(Vgs - Vth, 0)
let Vdsat = (Vgt)*EcL/(Vgt + EcL)
let Vmin = min(Vgs, Vdsat)
let idfit = 0.5*mu*Cox*WbyL*EcL*(Vgt^2)*(1 + lambdan * Vds)/(Vgt + EcL)
set filetype=ascii
wrdata nmos_ids_vgs.txt -I(Vin1) idfit
plot -I(Vin1) idfit
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
